US07501538B2
(S)-3-(4-Bromo-phenyl)-2-{5-chloro-2-[(naphthalen-1-ylmethyl)-amino]-benzoylamino}-propionic acid methyl ester was prepared from (S)-2-(2-amino-5-chloro-benzoylamino)-3-(4-bromo-phenyl)-propionic acid methyl ester (2.5 g, 6.07 mmol) and 1-naphthaldehyde (2.0 g, 13.3 mmol) according to Procedure G, except for the following: after completion of the reaction, 100 mL of DCM was added and the organic washed with saturated sodium bicarbonate, dried over sodium sulfate, and evaporated. The crude material was purified over silica gel (8:2, DCM-hexanes).

reactant | (S)-2-(2-amino-5-chloro-benzoylamino)-3-(4-bromo-phenyl)-propionic acid methyl ester | 6.07 mmol, 2.5 g | COC([C@H](CC1=CC=C(C=C1)Br)NC(C1=C(C=CC(=C1)Cl)N)=O)=O | C17H16BrClN2O3
reactant | 1-naphthaldehyde | 13.3 mmol, 2.0 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(4-Bromo-phenyl)-2-{5-chloro-2-[(naphthalen-1-ylmethyl)-amino]-benzoylamino}-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)Br)NC(C1=C(C=CC(=C1)Cl)NCC1=CC=CC2=CC=CC=C12)=O)=O | C28H24BrClN2O3
